US05618808
G. 3-(S)-Amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
A mixture of 6.2 g (18.9 mmol) of 3(S)-[(carbobenzyloxy)amino]-2,3 dihydro-1,5-benzothiazepin-4(5H)-one and 25 mL of a 30% HBr solution in acetic acid was stirred at room temperature for 1 hour. There was noticeable evolution of carbon dioxide gas (CO2) and the initial suspension gradually went into solution. After solution was obtained, a heavy precipitate was formed. The precipitate was filtered, and the solid triturated with 75 mL of NaHCO3 and 75 mL of ethyl acetate. The ethyl acetate layer was dried and evaporated. The residue was triturated to yield 1.7 g of product as a white solid. Neutralization of the filtrate and extraction yielded an additional 1.15 g of product. The two solids were combined to yield 2.85 g (78%) of 3-(S)-amino-2,3-dihydro-1,5-benthiazepin-4(5H)-one.

reactant | 3(S)-[(carbobenzyloxy)amino]-2,3 dihydro-1,5-benzothiazepin-4(5H)-one | 18.9 mmol, 6.2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H]1CSC2=C(NC1=O)C=CC=C2 | C17H16N2O3S
reactant | HBr | Br | BrH
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(S)-Amino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.7 g | N[C@@H]1CSC2=C(NC1=O)C=CC=C2 | C9H10N2OS
